US07585886B2
A 3.0 ml ethanol solution of 105 mg of ethyl 1-{[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}piperidine-4-carboxylate was mixed at room temperature with 1.0 ml of 1 M sodium hydroxide aqueous solution and stirred overnight at room temperature. The reaction solution was concentrated under a reduced pressure, acidified by adding 1 M hydrochloric acid and then extracted with chloroform and dried with anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure, and the thus obtained residue was purified by a silica gel column chromatography to obtain 86 mg of 1-{[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}piperidine-4-carboxylic acid as a white amorphous substance. A 2.0 ml 1,4-dioxane solution of 86 mg of 1-{[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}piperidine-4-carboxylic acid was mixed at room temperature with 1.0 ml of 4 M hydrogen chloride/1,4-dioxane and stirred overnight at room temperature. The reaction solution was concentrated and crystallized with 1,4-dioxane-diisopropyl ether to obtain 80 mg of 1-{[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}piperidine-4-carboxylic acid hydrochloride as a white solid.

reactant | 1-{[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}piperidine-4-carboxylic acid | 86 mg | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)N1CCC(CC1)C(=O)O | C35H43N3O5
reactant | hydrogen chloride 1,4-dioxane | 4 M, 1.0 ml | Cl.O1CCOCC1
solvent | 1,4-dioxane | 2.0 ml | O1CCOCC1 | C4H8O2
product | 1-{[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}piperidine-4-carboxylic acid hydrochloride | 80 mg | Cl.C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)N1CCC(CC1)C(=O)O | InChI=1S/C30H35N3O3.ClH/c1-21(26-13-7-11-22-10-5-6-12-27(22)26)31-18-25-19-33(20-28(25)23-8-3-2-4-9-23)30(36)32-16-14-24(15-17-32)29(34)35;/h2-13,21,24-25,28,31H,14-20H2,1H3,(H,34,35);1H/t21-,25+,28-;/m1./s1
